US04954504
p-Bromophenylacetonitrile (50 g), t-butyl acrylate (46 ml), palladium (II) acetate (575 mg) and tri-o-tolylphosphine (3.1 g) are combined with 125 ml triethylamine in a steel pressure reactor and heated at 140° for 16 hours. The reaction mixture is cooled to room temperature and poured into 500 ml 3N hydrochloric acid at 0°. The solids are extracted into ethyl acetate and the ethyl acetate solution is extracted with saturated NaCl solution and dried over magnesium sulfate. The crude product is triturated with ether:hexane (1:1), filtered and dried under vacuum to yield t-butyl p-(cyanomethyl)-phenylacrylate; m.p. 80°-82°; NMR (CDCl3): 7.5 (2H,d), 7.32 (2H,d), 6.39 (2H,d), 3.78 (2H,s), 1.52 (9H,s).

reactant | p-Bromophenylacetonitrile | 50 g | BrC1=CC=C(C=C1)CC#N | C8H6BrN
reactant | t-butyl acrylate | 46 ml | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | tri-o-tolylphosphine | 3.1 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | hydrochloric acid | 3N, 500 ml | Cl | ClH
catalyst | palladium (II) acetate | 575 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | triethylamine | 125 ml | C(C)N(CC)CC | C6H15N
product | t-butyl p-(cyanomethyl)-phenylacrylate | C(#N)CC1=CC=C(C=C1)C(C(=O)OC(C)(C)C)=C | C15H17NO2
